US20010021718A1
(3R)-6-Cyclohexyl-N-hydroxy-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanamide
A solution of (3R)-6-cyclohexyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanoic acid (Preparation 45) (170 mg, 0.61 mmol) in anhydrous tetrahydrofuran (2 ml) was treated with 1,1′-carbonyldiimidazole (98 mg, 0.61 mmol) and the mixture stirred at room temperature under a nitrogen atmosphere for 20 minutes. Hydroxylamine hydrochloride (42 mg, 0.61 mmol) was then added and the mixture stirred for 18 hours. The solvent was removed under reduced pressure and the residue partitioned between hydrochloric acid (0.5M) and ethyl acetate. The layers were separated and the organic phase was washed with water, dried over anhydrous sodium sulphate, filtered and solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with dichloromethane:methanol (98:2) to afford the title compound as an oil (82 mg).

reactant | (3R)-6-cyclohexyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanoic acid | 0.61 mmol, 170 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C | C15H24N2O3
reactant | 1,1′-carbonyldiimidazole | 0.61 mmol, 98 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Hydroxylamine hydrochloride | 0.61 mmol, 42 mg | Cl.NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (3R)-6-Cyclohexyl-N-hydroxy-3-(3-methyl-1,2,4-oxadiazol-5-yl)hexanamide | 82 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C | C15H25N3O3
